US07700786B2
Potassium carbonate (0.30 g, 2.2 mmol) and ethyl isocyanate (0.14 g, 2.0 mmol) were added to a solution of 3-(3,5-dichloropyridin-2-yloxy)-5-methylpyrazole (0.49 g, 2.0 mmol) in ethyl acetate (10 ml), and the mixture was stirred at room temperature overnight. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a white solid of N-ethyl-3-(3,5-dichloropyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.44 g, yield: 69.8%). mp: 74-76° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.23 (t, J=7.2 Hz, 3H), 2.64 (s, 3H), 3.39 (dq, J=5.8 and 7.2 Hz, 2H), 6.00 (s, 1H), 6.90-7.15 (m, 1H), 7.80 (d, J=2.3 Hz, 1H), 8.05 (d, 2.3 Hz, 1H).

reactant | Potassium carbonate | 2.2 mmol, 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl isocyanate | 2.0 mmol, 0.14 g | C(C)N=C=O | C3H5NO
reactant | 3-(3,5-dichloropyridin-2-yloxy)-5-methylpyrazole | 2.0 mmol, 0.49 g | ClC=1C(=NC=C(C1)Cl)OC1=NNC(=C1)C | C9H7Cl2N3O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-3-(3,5-dichloropyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 0.44 g, yield: 69.8% | C(C)NC(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)Cl | C12H12Cl2N4O2
